US07129235B2
8-benzyl-3,8-diazabicyclo[3.2.1]octane
8-Benzyl-3,8-diazabicyclo[3.2.1]octan-2-one (5.87 g, 27.1 mmol) in dry tetrahydrofuran (40 mL) was treated with 1M lithium aluminum hydride in THF (81.4 mL), heated at 60° C. for 2 hours, and then allowed to cool to room temperature and stir overnight. The mixture was cooled to 0° C. and treated in succession with water (4.4 mL), tetrahydrofuran (200 mL), 15% sodium hydroxide solution (4.4 mL), and water (13.3 mL). The mixture was filtered and the filter cake was rinsed with ethyl acetate. The filtrate was concentrated under reduced pressure to provide the title compound. MS (DCI/NH3) m/z: 203 (M+H)+.

reactant | 8-Benzyl-3,8-diazabicyclo[3.2.1]octan-2-one | 27.1 mmol, 5.87 g | C(C1=CC=CC=C1)N1C2C(NCC1CC2)=O | C13H16N2O
reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 4.4 mL | O | H2O
reactant | sodium hydroxide | 4.4 mL | [OH-].[Na+]
reactant | water | 13.3 mL | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | THF | 81.4 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 8-benzyl-3,8-diazabicyclo[3.2.1]octane | C(C1=CC=CC=C1)N1C2CNCC1CC2 | C13H18N2
